US06444829B1
64.2 g (167 mmol) of triphenylmethanthiol was slowly added at RT to a solution of 17.9 g (160 mmol) of potassium tert-butylate in 300 ml DMF and stirred mechanically for 30 min. Then 63 g (152 mmol) of (4S, 2S)-4-Methanesulfonyloxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid methylester in 300 ml DMF were added at 20° C. by cooling at the end with an ice bath. The reaction was heated for 1.3 h at 100° C., cooled, evaporated to 400 ml and extracted with 250 ml aqueous saturated NH4Cl/ethyl acetate (3×300). The organic phases were washed with aq. 10% NaCl, dried (Na2SO4) and evaporated. Flash chromatography (CH2Cl2/MeOH 99:1) gave 58.6 g (65%, (2S,4R)/(2R,4R)-isomer ca 4:1, 1H-NMR) and 9.2 g (10%, (2S,4R)/(2R,4R)-isomer ca 1:1, 1H-NMR) of (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid methyl ester, MS: 594 (MH+).

reactant | triphenylmethanthiol | 167 mmol, 64.2 g | C1(=CC=CC=C1)C(S)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16S
reactant | potassium tert-butylate | 160 mmol, 17.9 g | CC(C)(C)[O-].[K+]
reactant | (4S, 2S)-4-Methanesulfonyloxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid methylester | 152 mmol, 63 g | COC(=O)[C@H]1N(C[C@H](C1)OS(=O)(=O)C)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C17H19NO7S2
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | (2S,4R)-1-(Naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C35H31NO4S2
